US08729102B2
C) 4-[6-(cyclopropylmethoxy)imidazo[1,2-a]pyridin-2-yl]phenol
A mixture of 5-(cyclopropylmethoxy)pyridin-2-amine (328 mg), 2-bromo-1-(4-hydroxyphenyl)ethanone (430 mg) and ethanol (10 mL) was stirred at 80° C. for 4 hr. The reaction mixture was allowed to cool to room temperature, and the resulting crystals were collected by filtration. The obtained crystals were dissolved in saturated aqueous sodium hydrogen carbonate solution and THF, and the solution was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as a brown solid (561 mg).

reactant | 5-(cyclopropylmethoxy)pyridin-2-amine | 328 mg | C1(CC1)COC=1C=CC(=NC1)N | C9H12N2O
reactant | 2-bromo-1-(4-hydroxyphenyl)ethanone | 430 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-[6-(cyclopropylmethoxy)imidazo[1,2-a]pyridin-2-yl]phenol | 561 mg | C1(CC1)COC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)O | C17H16N2O2
